US04563306
A solution of (3R)-2-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (350 mg), DCC (412 mg) and DMF (8 ml) is stirred at 9° C. for 1.5 hours, and L-histidyl-L-prolinamide.2HBr (702 mg) and triethylamine (0.49 ml) are added thereto. The mixture is stirred for 2 days. Insoluble materials are filtered off, and the filtrate is distilled under reduced pressure to remove DMF. The residue is dissolved in an aqueous sodium bicarbonate solution, and the solution is passed through a column (2.4×21 cm) packed with CHP-20P resin. The column is washed with water (one liter), and the product is eluted with 30% methanol. The fractions positive to Pauly reagent are collected, and the collection solution is distilled to remove methanol. The residue is lyophilized, whereby Nα -[(3S)-1-oxo-2-methyl-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]-L-histidyl-L-prolinamide (370 mg) is obtained. Yield: 47.6%

reactant | (3R)-2-methyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 350 mg | CN1C(C2=CC=CC=C2C[C@@H]1C(=O)O)=O | C11H11NO3
reactant | DCC | 412 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | L-histidyl-L-prolinamide | N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1 | C11H17N5O2
solvent | triethylamine | 0.49 ml | C(C)N(CC)CC | C6H15N
product | Nα -[(3S)-1-oxo-2-methyl-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]-L-histidyl-L-prolinamide | 370 mg, Yield: 47.6% | O=C1N([C@@H](CC2=CC=CC=C12)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1)C | C22H26N6O4
